US07138425B2
a) 2-(5-Nitro-2-allyloxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 44a), from 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (200 mg, 0.6 mmol) and allyl alcohol (4 ml) the subtitle compound was obtained (216 mg, 97%). 1H NMR (DMSO) δ 8.83(d, 1H), 8.38(dd, 1H), 8.06(d, 1H), 7.82(d, 1H), 7.69(m, 3H), 7.44(t, 3H), 7.33(t, 1H), 6.08(m, 1H), 5.60(dd, 1H), 5.30(dd, 1H), 4.90(m, 2H).

reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 0.6 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
reactant | allyl alcohol | 4 ml | C(C=C)O | C3H6O
product | 2-(5-Nitro-2-allyloxyphenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCC=C | C22H16N2O4
